US06667330B2
To a solution of 4-hydroxy-5-oxo-3-(2-furanylmethylsulfanyl)-2-[(2-furanylmethylsulfanyl)-methyl]-2,5-dihydrofuran-2-carboxylic acid ethyl ester (0.5 g, 1.219 mmol) in anhydrous tetrahydrofuran (THF, 30 mL) was added a THF solution of LiBH4 (2 mL, 4 mmol) at 0-5° C. under argon atmosphere. The mixture was stirred overnight at room temperature and water (1 mL) was slowly added. The mixture was stirred for 5 min and concentrated hydrochloric acid (1 mL) was added. The solution was mixed with water (150 mL) and extracted with methylene chloride (2×100 mL). The combined organic solution was washed with water (50 mL), dried and evaporated. The residue was purified by column chromatography, eluted with a mixed solvent of hexane and ethyl acetate (3:1 to 2:1, v/v) affording 55.6 mg of 4-(furan-2-ylmethylsulfanyl)-5-(furan-2-ylmethylsulfanylmethyl)-3-hydroxy-5-hydroxymethyl-5H-furan-2-one as a cream oil. 1H NMR (CD3OD, 300.16 MHz) δ (ppm): 7.45-7.42 (m, 2H), 6.35-6.22 (m, 4H), 4.50-3.71 (m, 5H), 3.48 (d, J=12.2 Hz, 1H), 2.97 (d, J=14.8 Hz, 1H) and 2.64 (d, J=14.8 Hz, 1H). 13C NMR (CD3OD, 75.48 MHz) δ (ppm): 167.70, 151.21, 150.45, 143.03, 142.38, 142.19, 125.61, 110.33, 110.00, 108.44, 107.81, 88.79, 64.19, 34.07, 28.87 and 26.83. MS (ESI, rel. int.) m/z: 369 (M+H+, 3), 391 (M+Na+, 100).

reactant | 4-hydroxy-5-oxo-3-(2-furanylmethylsulfanyl)-2-[(2-furanylmethylsulfanyl)-methyl]-2,5-dihydrofuran-2-carboxylic acid ethyl ester | 1.219 mmol, 0.5 g | C(C)OC(=O)C1(OC(C(=C1SCC=1OC=CC1)O)=O)CSCC=1OC=CC1 | C18H18O7S2
reactant | LiBH4 | 4 mmol, 2 mL | [Li+].[BH4-]
reactant | water | 1 mL | O | H2O
reactant | hydrochloric acid | 1 mL | Cl | ClH
reactant | water | 150 mL | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-(furan-2-ylmethylsulfanyl)-5-(furan-2-ylmethylsulfanylmethyl)-3-hydroxy-5-hydroxymethyl-5H-furan-2-one | 55.6 mg | O1C(=CC=C1)CSC1=C(C(OC1(CO)CSCC=1OC=CC1)=O)O | C16H16O6S2
